US07728025B2
(Step 4) Production of N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyridine-2-carboxamide
1 ml of fuming nitric acid was added to 70 mg of N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide, and the reaction liquid was stirred at room temperature for 2 hours. The reaction liquid was poured into a mixture of ice-aqueous saturated sodium bicarbonate, extracted with chloroform, and dried with anhydrous sodium carbonate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=20/1) to obtain the entitled compound as a yellow solid.

reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide | 70 mg | C(C)(=O)N1C(C(CC1)C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C19H20FN3O2
product | N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyridine-2-carboxamide | C(C)(=O)N1C(C(CC1)C)C1=CC(=C(C=C1F)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C19H19FN4O4
